US05340701
Preparation of 2,4-dichloro-6-(3-methylbut-1-oxy)pyrimidine
A solution of 28.6 g (0.26 mol) of sodium tert-amylate in 150 ml of 3-methylbutanol is stirred at 45°-50° C. for 30 minutes, cooled to 20° C. and added dropwise at -30° C. to a solution of 30 ml (0.26 mol) of trichloropyrimidine in 150 ml of 3-methylbutanol. When the solution has been added, the temperature is 0° C. The reaction mixture is left to stand overnight. The solvent is removed and the residue is taken up in 150 ml of water. Extraction three times with toluene, drying of the combined organic phases using MgSO4 and evaporation give 60.36 g (98.7% of theory) of the title compound.

reactant | sodium tert-amylate | 0.26 mol, 28.6 g | CCC(C)(C)[O-].[Na+]
reactant | trichloropyrimidine | 0.26 mol, 30 ml | ClC=1C(=NC(=NC1)Cl)Cl | C4HCl3N2
reactant | 3-methylbutanol | 150 ml | CC(CCO)C | C5H12O
reactant | 3-methylbutanol | 150 ml | CC(CCO)C | C5H12O
product | 2,4-dichloro-6-(3-methylbut-1-oxy)pyrimidine | ClC1=NC(=CC(=N1)Cl)OCCC(C)C | C9H12Cl2N2O
